US07060721B1
3-Chloro-4-methylphenol (2.00 g) was dissolved in N,N-dimethylformamide (10.0 ml), and potassium carbonate (2.91 g) and 1-propyl iodide (2.62 g) were added. The mixture was stirred at room temperature for 20 hr, and the reaction mixture was concentrated under reduced pressure. Water was added, and the mixture was extracted with AcOEt. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was applied to silica gel column chromatography and eluted with hexane:ethyl acetate=5:1. The objective fraction was concentrated under reduced pressure to give 2-chloro-4-(1-propoxy)toluene (2.18 g) as a colorless oil.

reactant | 3-Chloro-4-methylphenol | 2.00 g | ClC=1C=C(C=CC1C)O | C7H7ClO
reactant | potassium carbonate | 2.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-propyl iodide | 2.62 g | C(CC)I | C3H7I
solvent | N,N-dimethylformamide | 10.0 ml | CN(C=O)C | C3H7NO
product | 2-chloro-4-(1-propoxy)toluene | 2.18 g | ClC1=C(C=CC(=C1)OCCC)C | C10H13ClO
